US06518303B2
A solution of 4-(dibenzylsulfamoyl)benzoic acid (24 g; 63 mmoles) in thionyl chloride (50 ml) was boiled under reflux for 2.5 hours and the excess of thionyl chloride removed under reduced pressure. 4-(dibenzylsulfamoyl)benzoyl chloride (25 g) was obtained as an oil which was used in the next step without purification.

reactant | 4-(dibenzylsulfamoyl)benzoic acid | 63 mmoles, 24 g | C(C1=CC=CC=C1)N(S(=O)(=O)C1=CC=C(C(=O)O)C=C1)CC1=CC=CC=C1 | C21H19NO4S
reactant | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-(dibenzylsulfamoyl)benzoyl chloride | 25 g | C(C1=CC=CC=C1)N(S(=O)(=O)C1=CC=C(C(=O)Cl)C=C1)CC1=CC=CC=C1 | C21H18ClNO3S
